US07829580B2
Following a procedure similar to that described in Example 146-(b), (E)-3-({1-[(2-pyridyl)methyl]-1H-pyrazol-3-yl}methylidene)-1-(triphenylmethyl)piperidin-4-one (1.8 g) was treated with sodium borohydride to afford (E)-3-({1-[(2-pyridyl)methyl]-1H-pyrazol-3-yl}methylidene)-1-(triphenylmethyl)piperidin-4-ol as a yellow amorphous solid in a quantitative yield.

reactant | (E)-3-({1-[(2-pyridyl)methyl]-1H-pyrazol-3-yl}methylidene)-1-(triphenylmethyl)piperidin-4-one | 1.8 g | N1=C(C=CC=C1)CN1N=C(C=C1)\C=C\1/CN(CCC1=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H30N4O
reactant | sodium borohydride | [BH4-].[Na+]
product | (E)-3-({1-[(2-pyridyl)methyl]-1H-pyrazol-3-yl}methylidene)-1-(triphenylmethyl)piperidin-4-ol | quantitative yield | N1=C(C=CC=C1)CN1N=C(C=C1)\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H32N4O
